US05476933
Preparation of 6,8-Dimethyl-3-methoxy-1H-1-benzazepine-2,5-dione (96).
To stirred, ice bath cold, coned H2SO4 (14 mL, Baker), there was added 5,7-dimethyl-2-methoxynaphthalene-1,4-dione (1.00 g, 4.63 mmol) in portions. A deep red solution resulted. To this cold solution, NaN3 (601 mg, 9.24 mmol, Aldrich) was added in portions over one min. The ice bath was removed and the reaction was allowed to stir at rt for 18 h under N2. Nitrogen evolution was noted. The reaction was added to crushed ice (100 mL) to give a brown suspension. A solution of 30% MeOH/70% CHCl3 (90 mL) was added and vigorously stirred until all the solid had dissolved. The layers were separated and the aqueous portion was extracted with 30% MeOH/70% CHCl3 (2×30 mL). The combined red organic portion was washed with water (1×30 mL), saturated NaHCO3 (1×30 mL) and brine (1×30 mL), filtered through cotton and the solvent removed in vacuo to give a red solid (~1 g). Crystallization from 95% EtOH (dissolved in 40 mL, hot filtered, concd to 25 mL, allowed to cool to rt then in an ice bath) a gave colorless fluffy needles (678 mg, 63%, pure by 1H NMR); mp 237°-238° C.; 1H NMR (DMSO-d6) δ2.25 (s, 3H), 2.29 (s, 3H), 3.70 (s, 3H), 6.28 (s, 1H), 6.90 (s, 1H), 6.94 (s, 1H), 10.94 (s, 1H); 13C NMR (DMSO-d6) δ20.66, 56.04, 113.58, 118.69, 127.47, 128.10, 135.44, 137.45, 141.20, 153.83, 160.10, 190.53; IR (KBr) 3207 (m), 3003 (m), 2920 (m), 1682 (s), 1645 (s), 1619 (s), 1241 (m), 1224 (m), 855 (m); MS (m/z) 231 (M+, 100).

reactant | H2SO4 | 14 mL | OS(=O)(=O)O | H2O4S
reactant | 5,7-dimethyl-2-methoxynaphthalene-1,4-dione | 4.63 mmol, 1.00 g | CC1=C2C(C=C(C(C2=CC(=C1)C)=O)OC)=O | C13H12O3
reactant | NaN3 | 9.24 mmol, 601 mg | [N-]=[N+]=[N-].[Na+]
solvent | MeOH | 90 mL | CO | CH4O
product | 6,8-Dimethyl-3-methoxy-1H-1-benzazepine-2,5-dione | ~1 g | CC1=CC(=CC2=C1C(C=C(C(N2)=O)OC)=O)C | C13H13NO3
